US07745641B2
In a similar manner to Step 3 of Example 16, 4-methoxymethoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (8.50 mg, 26.0 mmol) was dissolved in THF (340 mL), and the solution was treated with TMEDA (12.5 mL, 83.1 mmol), sec-butyllithium-hexane solution (0.99 mol/L, 8.4.0 mL, 83.1 mmol) and iodine (7.91 g, 31.2 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=90/10, 70/30) to obtain 4-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (7.65 g, yield 65%).

reactant | 4-methoxymethoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 26.0 mmol, 8.50 mg | COCOC1=C2C(N(C(C2=CC=C1)=O)C(C)(C1=CC=CC=C1)C)O | C19H21NO4
reactant | TMEDA | 83.1 mmol, 12.5 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium hexane | 83.1 mmol, 0.99 mol/L | C(C)(CC)[Li].CCCCCC
reactant | iodine | 31.2 mmol, 7.91 g | II | I2
solvent | THF | 340 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 7.65 g, yield 65% | COCOC1=C2C(N(C(C2=C(C=C1)I)=O)C(C)(C1=CC=CC=C1)C)O | C19H20INO4
